US05739382
Sodium 2-amino-3-(2-thienyl)benzenesulphonate
21 g (59 mmol) of sodium 2-amino-5-bromo-3-(2-thienyl)benzenesulphonate are heated at 100° C. for 1 hour in the presence of 350 ml of 10% sodium hydroxide solution, 15 ml of ethanol and 7.4 g of zinc. The temperature of the reaction medium is allowed to return to room temperature and 300 ml of methanol are added. The mixture is filtered through Celite, the filtrate is concentrated and the residue is taken up in 1N sodium hydroxide solution at 0° C. and dried under vacuum.

reactant | sodium 2-amino-5-bromo-3-(2-thienyl)benzenesulphonate | 59 mmol, 21 g | NC1=C(C=C(C=C1C=1SC=CC1)Br)S(=O)(=O)[O-].[Na+]
reactant | sodium hydroxide | 350 ml | [OH-].[Na+]
reactant | ethanol | 15 ml | C(C)O | C2H6O
catalyst | zinc | 7.4 g | [Zn] | Zn
solvent | methanol | 300 ml | CO | CH4O
product | Sodium 2-amino-3-(2-thienyl)benzenesulphonate | NC1=C(C=CC=C1C=1SC=CC1)S(=O)(=O)[O-].[Na+] | InChI=1S/C10H9NO3S2.Na/c11-10-7(8-4-2-6-15-8)3-1-5-9(10)16(12,13)14;/h1-6H,11H2,(H,12,13,14);/q;+1/p-1
